US09079838B2
Preparation of 1,6-bis([1,1′-biphenyl]-2-yloxy)hexane
A 250 mL 3-neck flask was equipped with a magnetic stirrer, a reflux condenser, a nitrogen blanket, and a heating mantle with a temperature controller and a thermocouple. The flask was charged with o-phenylphenol (6.81 grams, 0.04 moles), with KOH pellets (2.64 grams, 0.04 moles, 85%), and with 50 mL of DMSO. The mixture was stirred at about 35° C. for about 1½ hours, then 1,6-dibromohexane (4.88 grams, 0.02 moles) was added in one portion. The reaction mixture was stirred at about 75° C. for about 2 hours, then it was poured into about 500 mL of water. A milky white suspension formed. The mixture was slurried with about 100 mL of diethyl ether, then it was transferred to a separatory funnel. The layers were separated, and the aqueous layer was extracted with 5×100 mL of diethyl ether. The ether layers were combined, and were washed with 1×100 mL of water and with 1×100 mL of saturated aqueous sodium chloride. After drying the ether solution over anhydrous magnesium sulfate, the solution was filtered, and the solvent was removed by rotary evaporation at a bath temperature of about 60° C./P=3.4 kPa. The yield of product was 7.06 grams (84%) as a white solid having mp=92-95° C. Structure was confirmed by IR, GC/MS, and 1H- and 13C-NMR analyses.

reactant | o-phenylphenol | 0.04 moles, 6.81 grams | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | KOH | [OH-].[K+]
reactant | DMSO | 50 mL | CS(=O)C | C2H6OS
reactant | 1,6-dibromohexane | 0.02 moles, 4.88 grams | BrCCCCCCBr | C6H12Br2
solvent | diethyl ether | about 100 mL | C(C)OCC | C4H10O
solvent | water | about 500 mL | O | H2O
product | 1,6-bis([1,1′-biphenyl]-2-yloxy)hexane | C1(=C(C=CC=C1)OCCCCCCOC1=C(C=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H30O2
